parameters sky130_fd_bs_flash__special_sonosfet_star__tox_slope_spectre=0.0
parameters sky130_fd_bs_flash__special_sonosfet_star__vth0_slope_spectre=0.0
subckt sky130_fd_bs_flash__special_sonosfet_star (d g s b)
parameters l=1 w=1 ad=0 as=0 pd=0 ps=0 nrd=0 nrs=0 mult=1.0
Msky130_fd_bs_flash__special_sonosfet_star (d g s b) m_sky130_fd_bs_flash__special_sonosfet_star__model l=l w=w ad=ad as=as pd=pd ps=ps nrd=nrd nrs=nrs
@if l*$scale >= 1.45e-7 && l*$scale < 1.55e-7 && w*$scale >= 3.45e-7 && w*$scale < 3.55e-7
    model m_sky130_fd_bs_flash__special_sonosfet_star__model bsim3      tnom=30.0  tox=1.54e-008 * sky130_fd_bs_flash__special_sonosfet_star__tox_mult + mc_mm_switch * 0 * (1.54e-008 * sky130_fd_bs_flash__special_sonosfet_star__tox_mult * (sky130_fd_bs_flash__special_sonosfet_star__tox_slope / sqrt(l * w * mult))) toxm=1.54e-8 xj=1.5000001e-7 nch=1.3069232e+17 lln=1.0 lwn=1.0 wln=1.0 wwn=1.0 lint=6.69e-009 + sky130_fd_bs_flash__special_sonosfet_star__lint_diff ll=0.0 lw=0.0 lwl=0.0 wint=0 + sky130_fd_bs_flash__special_sonosfet_star__wint_diff wl=0.0 ww=0.0 wwl=0.0 mobmod=1.0 binunit=2.0 dwg=0.0 dwb=0.0 ldif=0.0 hdif=0.0 rd=0.0 rs=0.0 rsc=0.0 rdc=0.0 rsh=1.0 vth0=-0.88124 + sky130_fd_bs_flash__special_sonosfet_star__vth0_diff_2 + mc_mm_switch * 0 * (sky130_fd_bs_flash__special_sonosfet_star__vth0_slope / sqrt(w * l * mult)) k1=0.83177 k2=-0.06346 + sky130_fd_bs_flash__special_sonosfet_star__k2_diff_2 k3=0.0 dvt0=0.0 dvt1=0.0 dvt2=0.0 dvt0w=0.0 dvt1w=0.0 dvt2w=0.0 nlx=0.0 w0=0.0 k3b=0.0 ngate=1.0e+23 vfb=-0.5627875 vsat=61317 + sky130_fd_bs_flash__special_sonosfet_star__vsat_diff_2 ua=-9.6244e-10 ub=7.44e-18 uc=3.8609e-10 rdsw=0 + sky130_fd_bs_flash__special_sonosfet_star__rdsw_diff_2 prwb=0.0 prwg=0.0 wr=1.0 u0=0.017157 + sky130_fd_bs_flash__special_sonosfet_star__u0_diff_2 a0=1.0328 keta=-0.046049 a1=0.0 a2=0.99 ags=0.1 b0=0.0 b1=0.0 voff=-0.20477 + sky130_fd_bs_flash__special_sonosfet_star__voff_diff_2 nfactor=4.29 + sky130_fd_bs_flash__special_sonosfet_star__nfactor_diff_2 cit=0.0 cdsc=0.0 cdscb=0.0 cdscd=0.0 eta0=0.12729 etab=0.0 dsub=0.0 pclm=1.62 pdiblc1=0.0 pdiblc2=0.016156456 pdiblcb=0.2775065 drout=0.0 pscbe1=4.188539e+8 pscbe2=1.0e-20 pvag=0.2728709 delta=0.0038 alpha0=0.0 alpha1=0.0 beta0=30.0 kt1=-0.088351 + sky130_fd_bs_flash__special_sonosfet_star__kt1_diff_2 kt2=-0.09179784 at=52118.0 ute=-0.5472 ua1=1.3719e-9 ub1=-2.7626e-18 uc1=1.4668e-11 kt1l=0.0 prt=0.0 cj=0.0016223 * sky130_fd_bs_flash__special_sonosfet_star__ajunction_mult mj=0.39046 pb=0.729 cjsw=5.9819e-011 * sky130_fd_bs_flash__special_sonosfet_star__pjunction_mult mjsw=0.25366 pbsw=0.729 cjswg=5.9819e-011 * sky130_fd_bs_flash__special_sonosfet_star__pjunction_mult mjswg=0.25366 pbswg=0.729 tpb=0.0012287 tpbsw=0.0 tpbswg=0.0 tcj=0.0008 tcjsw=0.0 tcjswg=0.0 js=0.000375 jsw=6.0e-10 nj=1.3574 xti=0.13 cgdo=1.28e-010 * sky130_fd_bs_flash__special_sonosfet_star__overlap_mult cgso=1.28e-010 * sky130_fd_bs_flash__special_sonosfet_star__overlap_mult cgbo=0.0 capmod=3.0 nqsmod=0.0 elm=5.0 xpart=0.0 cgsl=1.5e-012 * sky130_fd_bs_flash__special_sonosfet_star__overlap_mult cgdl=1.5e-012 * sky130_fd_bs_flash__special_sonosfet_star__overlap_mult ckappa=0.6 cf=0.0 clc=1.0e-7 cle=0.6 dlc=3e-9 + sky130_fd_bs_flash__special_sonosfet_star__dlc_diff + sky130_fd_bs_flash__special_sonosfet_star__dlc_rotweak dwc=0 + sky130_fd_bs_flash__special_sonosfet_star__dwc_diff vfbcv=-1.0 acde=0.4 moin=15.0 noff=4.0 voffcv=-0.41 lwc=0.0 llc=0.0 lwlc=0.0 wlc=0.0 wwc=0.0 wwlc=0.0 type=1
@elseif l*$scale >= 2.15e-7 && l*$scale < 2.25e-7 && w*$scale >= 4.45e-7 && w*$scale < 4.55e-7
    model m_sky130_fd_bs_flash__special_sonosfet_star__model bsim3      tnom=30.0  tox=1.54e-008 * sky130_fd_bs_flash__special_sonosfet_star__tox_mult + mc_mm_switch * 0 * (1.54e-008 * sky130_fd_bs_flash__special_sonosfet_star__tox_mult * (sky130_fd_bs_flash__special_sonosfet_star__tox_slope / sqrt(l * w * mult))) toxm=1.54e-8 xj=1.5000001e-7 nch=1.3069232e+17 lln=1.0 lwn=1.0 wln=1.0 wwn=1.0 lint=6.69e-009 + sky130_fd_bs_flash__special_sonosfet_star__lint_diff ll=0.0 lw=0.0 lwl=0.0 wint=0 + sky130_fd_bs_flash__special_sonosfet_star__wint_diff wl=0.0 ww=0.0 wwl=0.0 mobmod=1.0 binunit=2.0 dwg=0.0 dwb=0.0 ldif=0.0 hdif=0.0 rd=0.0 rs=0.0 rsc=0.0 rdc=0.0 rsh=1.0 vth0=-1.15 + sky130_fd_bs_flash__special_sonosfet_star__vth0_diff_0 + mc_mm_switch * 0 * (sky130_fd_bs_flash__special_sonosfet_star__vth0_slope / sqrt(w * l * mult)) k1=0.83177 k2=-0.10077 + sky130_fd_bs_flash__special_sonosfet_star__k2_diff_0 k3=0.0 dvt0=0.0 dvt1=0.0 dvt2=0.0 dvt0w=0.0 dvt1w=0.0 dvt2w=0.0 nlx=0.0 w0=0.0 k3b=0.0 ngate=1.0e+23 vfb=-0.5627875 vsat=61317 + sky130_fd_bs_flash__special_sonosfet_star__vsat_diff_0 ua=-9.6244e-10 ub=7.44e-18 uc=3.8609e-10 rdsw=0 + sky130_fd_bs_flash__special_sonosfet_star__rdsw_diff_0 prwb=0.0 prwg=0.0 wr=1.0 u0=0.017157 + sky130_fd_bs_flash__special_sonosfet_star__u0_diff_0 a0=1.0328 keta=-0.046049 a1=0.0 a2=0.99 ags=0.1 b0=0.0 b1=0.0 voff=-0.20477 + sky130_fd_bs_flash__special_sonosfet_star__voff_diff_0 nfactor=2.691 + sky130_fd_bs_flash__special_sonosfet_star__nfactor_diff_0 cit=0.0 cdsc=0.0 cdscb=0.0 cdscd=0.0 eta0=0.057437 etab=0.0 dsub=0.0 pclm=1.62 pdiblc1=0.0 pdiblc2=0.016156456 pdiblcb=0.2775065 drout=0.0 pscbe1=4.188539e+8 pscbe2=1.0e-20 pvag=0.2728709 delta=0.0038 alpha0=0.0 alpha1=0.0 beta0=30.0 kt1=-0.088351 + sky130_fd_bs_flash__special_sonosfet_star__kt1_diff_0 kt2=-0.09179784 at=52118.0 ute=-0.5472 ua1=1.3719e-9 ub1=-2.7626e-18 uc1=1.4668e-11 kt1l=0.0 prt=0.0 cj=0.0012651 * sky130_fd_bs_flash__special_sonosfet_star__ajunction_mult mj=0.3608 pb=0.729 cjsw=7.3442e-011 * sky130_fd_bs_flash__special_sonosfet_star__pjunction_mult mjsw=0.13 pbsw=0.729 cjswg=7.3442e-011 * sky130_fd_bs_flash__special_sonosfet_star__pjunction_mult mjswg=0.13 pbswg=0.729 tpb=0.0012287 tpbsw=0.0 tpbswg=0.0 tcj=0.0 tcjsw=0.0 tcjswg=0.0 js=0.000375 jsw=6.0e-10 nj=1.3574 xti=0.13 cgdo=3.0674e-010 * sky130_fd_bs_flash__special_sonosfet_star__overlap_mult cgso=3.0674e-010 * sky130_fd_bs_flash__special_sonosfet_star__overlap_mult cgbo=0.0 capmod=3.0 nqsmod=0.0 elm=5.0 xpart=0.0 cgsl=5e-011 * sky130_fd_bs_flash__special_sonosfet_star__overlap_mult cgdl=5e-011 * sky130_fd_bs_flash__special_sonosfet_star__overlap_mult ckappa=0.6 cf=0.0 clc=1.0e-7 cle=0.6 dlc=6.5995e-008 + sky130_fd_bs_flash__special_sonosfet_star__dlc_diff + sky130_fd_bs_flash__special_sonosfet_star__dlc_rotweak dwc=0 + sky130_fd_bs_flash__special_sonosfet_star__dwc_diff vfbcv=-1.0 acde=0.4176 moin=15.0 noff=4.0 voffcv=-0.4104 lwc=0.0 llc=0.0 lwlc=0.0 wlc=0.0 wwc=0.0 wwlc=0.0 type=1
@elseif l*$scale >= 4.95e-7 && l*$scale < 5.05e-7 && w*$scale >= 9.95e-7 && w*$scale < 1.005e-6
    model m_sky130_fd_bs_flash__special_sonosfet_star__model bsim3      tnom=30.0  tox=1.54e-008 * sky130_fd_bs_flash__special_sonosfet_star__tox_mult + mc_mm_switch * 0 * (1.54e-008 * sky130_fd_bs_flash__special_sonosfet_star__tox_mult * (sky130_fd_bs_flash__special_sonosfet_star__tox_slope1 / sqrt(l * w * mult))) toxm=1.54e-8 xj=1.5000001e-7 nch=1.3069232e+17 lln=1.0 lwn=1.0 wln=1.0 wwn=1.0 lint=6.69e-009 + sky130_fd_bs_flash__special_sonosfet_star__lint_diff ll=0.0 lw=0.0 lwl=0.0 wint=0 + sky130_fd_bs_flash__special_sonosfet_star__wint_diff wl=0.0 ww=0.0 wwl=0.0 mobmod=1.0 binunit=2.0 dwg=0.0 dwb=0.0 ldif=0.0 hdif=0.0 rd=0.0 rs=0.0 rsc=0.0 rdc=0.0 rsh=1.0 vth0=-2.48 + sky130_fd_bs_flash__special_sonosfet_star__vth0_diff_1 + mc_mm_switch * 0 * (sky130_fd_bs_flash__special_sonosfet_star__vth0_slope1 / sqrt(w * l * mult)) k1=0.98149 k2=0 + sky130_fd_bs_flash__special_sonosfet_star__k2_diff_1 k3=0.0 dvt0=0.0 dvt1=0.0 dvt2=0.0 dvt0w=0.0 dvt1w=0.0 dvt2w=0.0 nlx=0.0 w0=0.0 k3b=0.0 ngate=1.0e+23 vfb=-0.5627875 vsat=83784 + sky130_fd_bs_flash__special_sonosfet_star__vsat_diff_1 ua=1.7253e-9 ub=9.9994e-18 uc=0.0 rdsw=0 + sky130_fd_bs_flash__special_sonosfet_star__rdsw_diff_1 prwb=0.0 prwg=0.0 wr=1.0 u0=0.022304 + sky130_fd_bs_flash__special_sonosfet_star__u0_diff_1 a0=1.0328 keta=-0.046049 a1=0.0 a2=0.99 ags=0.1 b0=0.0 b1=0.0 voff=-0.18282 + sky130_fd_bs_flash__special_sonosfet_star__voff_diff_1 nfactor=2.3681 + sky130_fd_bs_flash__special_sonosfet_star__nfactor_diff_1 cit=0.0 cdsc=0.0 cdscb=0.0 cdscd=0.0 eta0=0.040206 etab=0.0 dsub=0.0 pclm=0.5832 pdiblc1=0.0 pdiblc2=0.016156456 pdiblcb=0.2775065 drout=0.0 pscbe1=4.188539e+8 pscbe2=1.0e-20 pvag=0.2728709 delta=0.0038 alpha0=0.0 alpha1=0.0 beta0=30.0 kt1=-0.29006 + sky130_fd_bs_flash__special_sonosfet_star__kt1_diff_1 kt2=0.0 at=69838.0 ute=-0.9193 ua1=8.5277e-10 ub1=0.0 uc1=1.4668e-11 kt1l=0.0 prt=0.0 cj=0.0012651 * sky130_fd_bs_flash__special_sonosfet_star__ajunction_mult mj=0.3608 pb=0.729 cjsw=7.3442e-011 * sky130_fd_bs_flash__special_sonosfet_star__pjunction_mult mjsw=0.13 pbsw=0.729 cjswg=7.3442e-011 * sky130_fd_bs_flash__special_sonosfet_star__pjunction_mult mjswg=0.13 pbswg=0.729 tpb=0.0012287 tpbsw=0.0 tpbswg=0.0 tcj=0.0 tcjsw=0.0 tcjswg=0.0 js=0.000375 jsw=6.0e-10 nj=1.3574 xti=0.13 cgdo=3.0674e-010 * sky130_fd_bs_flash__special_sonosfet_star__overlap_mult cgso=3.0674e-010 * sky130_fd_bs_flash__special_sonosfet_star__overlap_mult cgbo=0.0 capmod=3.0 nqsmod=0.0 elm=5.0 xpart=0.0 cgsl=5e-011 * sky130_fd_bs_flash__special_sonosfet_star__overlap_mult cgdl=5e-011 * sky130_fd_bs_flash__special_sonosfet_star__overlap_mult ckappa=0.6 cf=0.0 clc=1.0e-7 cle=0.6 dlc=6.5995e-008 + sky130_fd_bs_flash__special_sonosfet_star__dlc_diff + sky130_fd_bs_flash__special_sonosfet_star__dlc_rotweak dwc=0 + sky130_fd_bs_flash__special_sonosfet_star__dwc_diff vfbcv=-1.0 acde=0.4176 moin=15.0 noff=4.0 voffcv=-0.4104 lwc=0.0 llc=0.0 lwlc=0.0 wlc=0.0 wwc=0.0 wwlc=0.0 type=1
@end

ends // sky130_fd_bs_flash__special_sonosfet_star
